US05998436
Synthesis of ethyl 8-chloro-6,7-difluoro-1-(3,5-difluoro-6-isopropylaminopyridin-2-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylate
To 2.5 ml of chloroform solution of ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate prepared from 0.70 g of ethyl 3-chloro-2,4,5-trifluorobenzoylacetate by normal process was added 600 mg of 2-amino-3,5-difluoro-6-isopropylaminopyridine. The solution was concentrated under reduced pressure. To the residue were added 600 mg of anhydrous potassium carbonate and 2 ml of N,N-dimethylformamide, and the mixture was stirred at 90° C. for 20 minutes and allowed to cool. The solution was separated by adding 30 ml of chloroform and 400 ml of distilled water, and the chloroform layer was washed twice with 400 ml of distilled water, dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and allowed to stand. The precipitate was collected by filtration, washed with ethanol and diisopropylether successively to obtain 620 mg of the title compound as a pale yellow powder.

reactant | ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)Cl)F)=O | C14H12ClF3O4
reactant | ethyl 3-chloro-2,4,5-trifluorobenzoylacetate | 0.70 g | ClC=1C(=C(C(=O)CC(=O)OCC)C=C(C1F)F)F | C11H8ClF3O3
reactant | 2-amino-3,5-difluoro-6-isopropylaminopyridine | 600 mg | NC1=NC(=C(C=C1F)F)NC(C)C | C8H11F2N3
solvent | chloroform | 2.5 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 8-chloro-6,7-difluoro-1-(3,5-difluoro-6-isopropylaminopyridin-2-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 620 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C=C1F)F)NC(C)C)C(=O)OCC)=O)F)F | C20H16ClF4N3O3
